US08859571B2
A solution of 2,4-difluoro-5-nitrobenzenesulfonyl chloride (21 g, 81 mmol) in THF (400 mL) at −60° C. was treated with methylamine hydrochloride (6.6 g, 97 mmol) and then treated dropwise with triethylamine (22.6 mL, 162 mmol). After stirring for 6 hours at −60 to −40° C. the mixture was adjusted to pH 3 with the addition of 15% aqueous HCl, diluted with water, and extracted with EtOAc. The organic extracts were dried (Na2SO4), concentrated, and subjected to flash chromatography (17% EtOAc-petroleum ether) to give 2,4-difluoro-N-methyl-5-nitrobenzenesulfonamide (8 g, 38%) as a brown solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.66-8.74 (m, 1 H), 7.20-7.25 (m, 1 H), 4.81-4.91 (m, 1 H), 2.78-2.81 (m, 3 H).

reactant | 2,4-difluoro-5-nitrobenzenesulfonyl chloride | 81 mmol, 21 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])S(=O)(=O)Cl | C6H2ClF2NO4S
reactant | methylamine hydrochloride | 97 mmol, 6.6 g | Cl.CN
reactant | triethylamine | 162 mmol, 22.6 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,4-difluoro-N-methyl-5-nitrobenzenesulfonamide | 8 g, 38% | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])S(=O)(=O)NC | C7H6F2N2O4S
